US04539332
Following the same procedure as described in Example 1, Step B, but substituting for the 1,2-bis-(3,4-dimethoxybenzoyl)ethane used therein, the 1-(3,4-dimethoxyphenyl)- 4-(2-naphthyl)butan-1,4-dione prepared above in Step A, there was obtained 370 mg of 2-(3,4-dimethoxyphenyl)-5-(2-naphthyl)tetrahydrofuran as a trans and cis mixture. This mixture was separated by HPLC to the cis-isomer (m.p. 74°-77° C.) and the trans-isomer (m.p. 112°-113° C.). PG,38 What is claimed is:

reactant | 1,2-bis-(3,4-dimethoxybenzoyl)ethane | COC=1C=C(C(=O)CCC(C2=CC(=C(C=C2)OC)OC)=O)C=CC1OC | C20H22O6
reactant | 1-(3,4-dimethoxyphenyl)- 4-(2-naphthyl)butan-1,4-dione | COC=1C=C(C=CC1OC)C(CCC(=O)C1=CC2=CC=CC=C2C=C1)=O | C22H20O4
product | 2-(3,4-dimethoxyphenyl)-5-(2-naphthyl)tetrahydrofuran | 370 mg | COC=1C=C(C=CC1OC)C1OC(CC1)C1=CC2=CC=CC=C2C=C1 | C22H22O3
